US09255089B2
6-(3,5-dimethylisoxazol-4-yl)-4-(hydroxydi(pyridin-2-yl)methyl)-1H-benzo[d]imidazol-2(3H)-one
CDI (1.1 g, 6 mmol) was added to a solution of (2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)phenyl)di(pyridin-2-yl)methanol (1.43 g, 3.7 mmol) in THF (10 mL) and the reaction mixture was stirred for 3 days. The reaction mixture was diluted with 100 mL water and 100 mL ethyl acetate and sonicated and filtered to yield the desired product.

reactant | CDI | 6 mmol, 1.1 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)phenyl)di(pyridin-2-yl)methanol | 3.7 mmol, 1.43 g | NC1=C(C=C(C=C1N)C=1C(=NOC1C)C)C(O)(C1=NC=CC=C1)C1=NC=CC=C1 | C22H21N5O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(hydroxydi(pyridin-2-yl)methyl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(C1=NC=CC=C1)(C1=NC=CC=C1)O)C | C23H19N5O3
